US06511980B2
2-(2-(3-aminophenoxy)ethyl)-1-methyl pyrrolidine
3-aminophenol (0.74 g, 6.8 mmol) in DMF (10 ml) was added dropwise to 95% NaH (0.49 g, 20.4 mmol) in 10 ml DMF at 0° C., under nitrogen. The reaction was stirred until H2(g) evolution ceased. 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride (1.25 g, 6.8 mmol) was then added portionwise. The mixture was stirred at room temperature for 18 h. The reaction mixture was quenched with 1N NaOH (50 ml) and the desired product extracted into ether (3×50 ml). The combined ether layers were washed (2×50 ml) with water, dried over MgSO4, and evaporated to dryness in vacuo. The residue was purified on silica gel by flash chromatography using 2% TEA in ethyl acetate to give an oil.

reactant | 3-aminophenol | 6.8 mmol, 0.74 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | NaH | 20.4 mmol, 0.49 g | [H-].[Na+]
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 6.8 mmol, 1.25 g | Cl.ClCCC1N(CCC1)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(2-(3-aminophenoxy)ethyl)-1-methyl pyrrolidine | NC=1C=C(OCCC2N(CCC2)C)C=CC1 | C13H20N2O
